US03960911
5-(4-Chlorobenzoyl)pentanoyl ferrocene (8.2g; 0.02 mole) and 5% (v/v) concentrated sulphuric acid in glacial acetic acid (200 ml) were stirred at room temperature for one hour, the mixture was poured into water extracted with chloroform (3 × 100 mls.). The combined extracts were washed with saturated aqueous sodium bicarbonate, and water, dried (magnesium sulphate) and evaporated under vacuum to yield a red-brown oil which crystallized from pentane at 0°-5°. The solid was filtered off to yield pure 1-ferrocenyl-2(4-chlorobenzoyl)cyclopent-1-ene; 2.5g (35%) mp 121°-3°.

reactant | 5-(4-Chlorobenzoyl)pentanoyl ferrocene | 0.02 mole, 8.2g | ClC1=CC=C(C(=O)CCCCC(=O)[C-]2C=CC=C2)C=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 1-ferrocenyl-2(4-chlorobenzoyl)cyclopent-1-ene | [C-]1(C=CC=C1)C1=C(CCC1)C(C1=CC=C(C=C1)Cl)=O.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H14ClO.C5H5.Fe/c18-14-10-8-13(9-11-14)17(19)16-7-3-6-15(16)12-4-1-2-5-12;1-2-4-5-3-1;/h1-2,4-5,8-11H,3,6-7H2;1-5H;/q2*-1;+2
